US08212032B2
c) cis-N-{[2-chloro-4-(1-piperidinyl)phenyl]methyl}-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide
In a microwave reaction vessel was added cesium carbonate (0.049 g, 0.150 mmol) under nitrogen. Next, Pd2(dba)3 (4.89 mg, 5.34 μmol), BINAP (4.99 mg, 8.02 μmol), N-[(4-bromo-2-chlorophenyl)methyl]-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide (0.050 g, 0.107 mmol) and piperidine (10.58 μl, 0.107 mmol) were then added to the reaction vial. Toluene (4.00 ml) was added and the reaction was heated to 100° C. for 16 hours. LCMS showed the formation of the desired product and the consumption of the starting materials. The reaction was cooled, the solvent was removed under vacuum, and the residue was purified by preparative HPLC to provide cis-N-{[2-chloro-4-(1-piperidinyl)phenyl]methyl}-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide (19 mg, 0.032 mmol, 30%). MS (ES+): m/e 472, 474 [M+H]+.

reactant | cesium carbonate | 0.150 mmol, 0.049 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 8.02 μmol, 4.99 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | N-[(4-bromo-2-chlorophenyl)methyl]-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide | 0.107 mmol, 0.050 g | BrC1=CC(=C(C=C1)CNC(=O)C1CC(CCC1)NC1=NC(=NC(=N1)C)NC)Cl | C19H24BrClN6O
reactant | piperidine | 0.107 mmol, 10.58 μl | N1CCCCC1 | C5H11N
catalyst | Pd2(dba)3 | 5.34 μmol, 4.89 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 4.00 ml | C1(=CC=CC=C1)C | C7H8
product | cis-N-{[2-chloro-4-(1-piperidinyl)phenyl]methyl}-3-{[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxamide | ClC1=C(C=CC(=C1)N1CCCCC1)CNC(=O)[C@@H]1C[C@@H](CCC1)NC1=NC(=NC(=N1)C)NC | C24H34ClN7O
